US04058543
Dibutyl thiomalate 140 grams (93% assay) was warmed to 90° C and dibutyltin oxide 125 grams was added slowly with stirring and continued heating. The dibutyltin oxide had dissolved by the time the mixture reached 130° C to give dibutyltin mono (dibutyl thiomalate) a viscous liquid.

reactant | Dibutyl thiomalate | 140 grams | C(C(S)CC(=O)OCCCC)(=O)OCCCC | C12H22O4S
reactant | dibutyltin oxide | 125 grams | C(CCC)[Sn](CCCC)=O
product | dibutyltin mono (dibutyl thiomalate) | C(CCC)C(C(C(=O)[O-])S)(C(=O)[O-])CCCC.C(CCC)[Sn+2]CCCC | InChI=1S/C12H22O4S.2C4H9.Sn/c1-3-5-7-12(11(15)16,8-6-4-2)9(17)10(13)14;2*1-3-4-2;/h9,17H,3-8H2,1-2H3,(H,13,14)(H,15,16);2*1,3-4H2,2H3;/q;;;+2/p-2
